US07462600B2
Preparation 16: [1,8]naphthyridine-4-carbaldehyde
4-Methyl-[1,8]naphthyridine (0.743 g, 5.15 mmol) was dissolved in dioxane (32 mL) and water (4 mL). Selenium dioxide (1.14 g, 103 mmol) was added, and the solution was heated to 80° C. for 1 h. Subsequently more selenium dioxide (0.020 g, 1.80 mmol) was added, the solution heated for 30 min, and then allowed to cool to RT. The solution was passed through a syringe filter to remove solids, and poured into a solution of water : satd. aq. NaHCO3 (1:1) (60 mL). The organic layer was separated and the remaining aqueous extracted with DCM (2×100 mL) and (1×50 mL). The organic fractions were combined, dried over Na2SO4, filtered, and concentrated under vacuum. The product was purified (SGC using MeCN:hexanes in 1:1 ratio) to yield the title compound (0.63 g). MS (ESI+) for m/z 159 (M+H)+. 1H NMR (CDCl3) δ 10.39 (s, 1H), 9.39-9.37 (m, 2H), 9.16 (d, 1H), 7.85 (d, 1H), 7.61 (dd, 1H).

reactant | 4-Methyl-[1,8]naphthyridine | 5.15 mmol, 0.743 g | CC1=CC=NC2=NC=CC=C12 | C9H8N2
reactant | Selenium dioxide | 103 mmol, 1.14 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 1.80 mmol, 0.020 g | [Se](=O)=O | O2Se
solvent | dioxane | 32 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
product | [1,8]naphthyridine-4-carbaldehyde | 0.63 g | N1=CC=C(C2=CC=CN=C12)C=O | C9H6N2O
